US07312241B2
(2,3,4-trimethoxyphenyl)-(3,4,5-trimethoxyphenyl)methanone (2.87 g, 7.92 mmol), cyanomethylphosphonic acid diethyl ester (2.50 ml, 15.84 mmol) in anhydrous THF (15 ml), and lithium bis (trimethylsilyl)amide (1.0 M solution in THF, 15.84 ml, 15.84 mmol) were treated in the same manner as described above for the synthesis of 3-(2,3-dihydrobenzo[1,4]dioxin-6-yl)-3-(3,5-dimethoxyphenyl)acrylonitrile. The crude material was purified via flash column chromatography (20% EtOAc in hexane) to give 3-(2,3,4-trimethoxy-phenyl)-3-(3,4,5-trimethoxy-phenyl)-acrylonitrile as an off-white solid (2.32 g, 76%); mp, 125-127° C.: 1HNMR (DMSO-d6) δ 7.01-6.85 (m, 2H, Ar), 6.63-6.61 (m, 2H, Ar), 5.95 (s, 1H, double bond proton), 3.87-3.32 (multiple singlets, 18H, 6OCH3); 3C NMR (CDCl3) δ 160.6, 160.2, 155.5, 153.3, 153.1, 152.4, 151.8, 142.6, 139.5, 134.7, 133.8, 126.2, 125.8, 125.4, 118.4, 118.0, 107.2, 107.1, 106.4, 106.1, 104.8, 95.9, 61.2, 61.1, 61.0, 61.0, 56.4, 56.4, 56.2; Anal. Calcd. For C21H23NO6 (+0.05 H2O): C, 65.29; H, 6.03; N, 3.63. Found: C, 64.90; H, 5.94; N, 3.55.

reactant | (2,3,4-trimethoxyphenyl)-(3,4,5-trimethoxyphenyl)methanone | 7.92 mmol, 2.87 g | COC1=C(C=CC(=C1OC)OC)C(=O)C1=CC(=C(C(=C1)OC)OC)OC | C19H22O7
reactant | cyanomethylphosphonic acid diethyl ester | 15.84 mmol, 2.50 ml | C(C)OP(OCC)(=O)CC#N | C6H12NO3P
reactant | lithium bis (trimethylsilyl)amide | 15.84 mmol, 1.0 M, 15.84 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 3-(2,3-dihydrobenzo[1,4]dioxin-6-yl)-3-(3,5-dimethoxyphenyl)acrylonitrile | O1CCOC2=C1C=CC(=C2)C(=CC#N)C2=CC(=CC(=C2)OC)OC | C19H17NO4
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 3-(2,3,4-trimethoxy-phenyl)-3-(3,4,5-trimethoxy-phenyl)-acrylonitrile | 2.32 g, 76% | COC1=C(C=CC(=C1OC)OC)C(=CC#N)C1=CC(=C(C(=C1)OC)OC)OC | C21H23NO6
